US07786108B2
Synthesis of (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid methyl ester
Add (4-formyl-cyclohexyl)-acetic acid methyl ester (68 mg, 0.368 mmol) to a solution of (S)-(3,5-bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amine (80 mg, 0.122 mmol) in acetic acid (0.5 mL) and 1,2-dichloroethane (5 mL) at room temperature under nitrogen and stir for 2 h. Add sodium triacetoxy borohydride (103 mg, 0.488 mmol) and stir for 3 h. Dilute the mixture with methylene chloride (30 mL) and wash with saturated aqueous sodium bicarbonate solution (2×10 mL). Extract the combined aqueous washes with methylene chloride (20 mL) and wash the combined organic extracts with brined (20 mL) and dry over anhydrous sodium sulfate. Remove the solvents under reduced pressure and purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (1:2), to provide the title compound as a colorless semi-solid (73 mg, 85%). 1H NMR (CDCl3, 300 MHz) δ 0.72-2.34 (m, 21H), 2.60-2.65 (m, 1H), 2.82-2.90 (m, 1H), 3.00-3.10 (m, 2H), 3.89 (s, 3H), 4.60-4.89 (m, 3H), 5.12-5.18 (m, 1H), 6.89 (s, 1H), 7.15 (s, 1H), 7.68-7.71 (m, 3H), 7.82 (s, 1H); ESI MS m/z 720 [C35H38F9N3O3+H]+; HPLC 96.1%, tR 22.1 min.

reactant | (4-formyl-cyclohexyl)-acetic acid methyl ester | 0.368 mmol, 68 mg | COC(CC1CCC(CC1)C=O)=O | C10H16O3
reactant | (S)-(3,5-bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-(7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[b]azepin-5-yl)-amine | 0.122 mmol, 80 mg | FC(C=1C=C(CN([C@@H]2C3=C(NCCC2)C=C(C(=C3)C)C(F)(F)F)C3=CC(=NO3)C)C=C(C1)C(F)(F)F)(F)F | C25H22F9N3O
reactant | sodium triacetoxy borohydride | 0.488 mmol, 103 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | (4-{5-[(3,5-Bis-trifluoromethyl-benzyl)-(3-methyl-isoxazol-5-yl)-amino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydro-benzo[b]azepin-1-ylmethyl}-cyclohexyl)-acetic acid methyl ester | 73 mg, 85% | COC(CC1CCC(CC1)CN1C2=C(C(CCC1)N(C1=CC(=NO1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=C(C(=C2)C(F)(F)F)C)=O | C35H38F9N3O3
